US07232803B2
Water (2 ml) was added to a solution of Boc-Arg-OH (2.5 mmol) in methanol (20 ml). The solution was neutralised with a 20% solution of Cs2CO3 in water and then evaporated in vacuo to dryness. Residual water was removed by repeated addition and evaporation of toluene. The solid cesium salt of Boc-arginine was treated with DMF (25 ml) and benzyl bromide (3 mmol) and stirred at room temperature for 6 h. The DMF was removed in vacuo and the product was dissolved in acetone and filtered. The filtrate was evaporated in vacuo and the product was treated with 95% trifluoroactetic acid (TFA) (4 ml). The resulting product H-Arg-OBzl was isolated by tituration by diethyl ether. The salt of H-Arg-OBzl was isolated by treating the product with para-toluenesulfonic acid (5 mmol) in ether.

reactant | Boc-Arg-OH | 2.5 mmol | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OC(C)(C)C | C11H22N4O4
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | cesium | [Cs] | Cs
reactant | Boc-arginine | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(N)=N)C(=O)O | C11H22N4O4
reactant | benzyl bromide | 3 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
solvent | Water | 2 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | H-Arg-OBzl | N[C@@H](CCCNC(N)=N)C(=O)OCC1=CC=CC=C1 | C13H20N4O2
